US05164402
7-(3-Azabicyclo[3.1.0]hex-3-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
A solution of the hydrochloride salt of 3-azabicyclo-[3.1.0]hexane (157 mg, 1.31 mmol), (prepared in a manner similar to that described in U.S. Pat. No. 4,183,857) in dimethylsulfoxide (13 ml) was treated with 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (348 mg, 1.31 mmol) and triethylamine (0.58 ml, 3.9 mmol) and heated for 18 hours. Filtration of the reaction mixture provided a white solid, which was purified by column chromatography (eluant: 1% acetic acid in chloroform, then 5% acetic acid in chloroform, then methanol) to give the title product as a white solid, melting point 290° (186 mg, 0.43 mmol, 33% yield). 1H NMR (DMSO-d6) 8.54 (s, 1H), 7.75 (d, J=14 Hz, 1H), 7.08 (d, J=9 Hz, 1H}, 3.83 (dd, J=4, 10 Hz, 2H), 3.73 (bs, 1H), 3.62 (bd, J=10 Hz, 2H), 1.77 (m, 2H), 1.30 (d, J=6 Hz, 2H), 1.14 (bs, 2H), 0.77 (m, 1H), 0.30 (m, 1H).

reactant | 3-azabicyclo-[3.1.0]hexane | 1.31 mmol, 157 mg | C12CNCC2C1 | C5H9N
reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 1.31 mmol, 348 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | triethylamine | 3.9 mmol, 0.58 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 13 ml | CS(=O)C | C2H6OS
product | 7-(3-Azabicyclo[3.1.0]hex-3-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 33% yield | C12CN(CC2C1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C18H17FN2O3
